US05965738
Synthesis of 5-ethyl-2-imino-3-(4-iodobenzyl)-1,3,4-thiadiazoline
In chloroform (50 ml), 5-ethyl-2-imino-3-(4-iodobenzyl)-1,3,4-thiadiazoline hydrobromide (2.89 g) was suspended. To the resulting suspension was added 0.5N sodium hydroxide (25 ml), and they were stirred for 30 minutes. After separation, the organic layer was dried over anhydrous magnesium sulfate. The oily substance so obtained was crystallized from diisopropyl ether, whereby 1.85 g of the title compound was obtained.

reactant | 5-ethyl-2-imino-3-(4-iodobenzyl)-1,3,4-thiadiazoline hydrobromide | 2.89 g | Br.C(C)C1=NN(C(S1)=N)CC1=CC=C(C=C1)I
reactant | sodium hydroxide | 0.5N, 25 ml | [OH-].[Na+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-ethyl-2-imino-3-(4-iodobenzyl)-1,3,4-thiadiazoline | 1.85 g | C(C)C1=NN(C(S1)=N)CC1=CC=C(C=C1)I | C11H12IN3S
